US06759493B1
Synthesis of Bis(2-pyridinoxy)titanium Dichloride
To a solution of 0.02 moles of 2-hydroxy pyridine and 0.02 moles of triethylamine in 50 mL of THF, a solution of 0.01 moles of titanium tetrachloride was added dropwise at 0° C. and stirred overnight at room temperature. After filtration, the THF solution was evaporated and the product was extracted from the residue. The product has the formula:

reactant | 2-hydroxy pyridine | 0.02 moles | OC1=NC=CC=C1 | C5H5NO
reactant | triethylamine | 0.02 moles | C(C)N(CC)CC | C6H15N
reactant | titanium tetrachloride | 0.01 moles | [Ti](Cl)(Cl)(Cl)Cl
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | Bis(2-pyridinoxy)titanium Dichloride | [Cl-].[Cl-].N1=C(C=CC=C1)O[Ti+2]OC1=NC=CC=C1 | InChI=1S/2C5H5NO.2ClH.Ti/c2*7-5-3-1-2-4-6-5;;;/h2*1-4H,(H,6,7);2*1H;/q;;;;+4/p-4
